US04218370
Preparation of Allyl 4-t-Butylazo-4-cyanovalerate
To a solution of 2.32 g (0.040 m) of allyl alcohol and 10 ml of pyridine in 50 ml of ether cooled to 10° C. in a 250 ml 4 neck round bottom flask was added a solution of 10 g (0.0435 m) of 4-t-butylazo-4-cyanovaleryl chloride* in 10 ml ether. The acid chloride solution was added dropwise holding the reaction temperature below 20° C. After the addition was complete, the reaction was stirred an additional 2 hours at room temperature and poured into 100 ml water. The ether layer was separated, washed with 20 ml portions of 10% HCl, 10%, NaHCO3 and water. The ether solution was dried over anhydrous sodium sulfate, filtered and the ether evaporated off. The crude produce weighed 8.95 g (89%). The infrared spectra indicated there was a small amount of unreacted acid chloride present in the product. The crude product was purified by column chromatography over alumina using pentane as the eluent. The acid chloride did not come off the column. The pentane was evaporated off to leave the pure product.

reactant | allyl alcohol | 2.32 g | C(C=C)O | C3H6O
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-t-butylazo-4-cyanovaleryl chloride | 10 g | C(C)(C)(C)N=NC(CCC(=O)Cl)(C)C#N | C10H16ClN3O
reactant | water | 100 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | Allyl 4-t-Butylazo-4-cyanovalerate | C(C)(C)(C)N=NC(CCC(=O)OCC=C)(C)C#N | C13H21N3O2
